* Z:\mnt\spice-netlists\LTC3886_DC2155A-A.asc
V1 IN 0 32
M§Q1 IN N002 N004 N004 RJK0651DPB
M§Q2 N004 N012 0 0 RJK0651DPB
L1 N009 N011 8.6µ
C1 N005 N004 .1µ V=100
D1 N001 N005 MBRS1100
C2 N015 N017 1n
R1 N011 N015 100
C3 OUT1 0 22µ x4
M§Q3 IN N003 N009 N009 RJK0651DPB
M§Q4 N009 N013 0 0 RJK0651DPB
L2 N004 N010 8.6µ
C4 N008 N009 .1µ V=100
D2 N001 N008 MBRS1100
C5 N014 N016 1n
R2 N010 N014 100
C6 OUT0 0 22µ x4
R3 N022 N023 10K
R4 N027 N022 4.99K
R5 N022 N024 10K
XU1 OUT0 0 N014 N016 N021 N015 N017 N027 NC_01 N019 N018 MP_02 MP_03 N024 N023 MP_04 N026 NC_05 NC_06 MP_07 MP_08 N025 MP_09 MP_10 N022 N020 OUT1 MP_11 N004 N002 N006 N012 N001 0 IN N013 N007 N003 N009 MP_12 0 LTC3886 VIN_ON=15.5 VIN_OFF=15 Vout_0=12 Vout_1=5 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m gm0=3.02m gm1=3.02m Rth0=6K Rth1=6K Freq=150K PHs_0=0 PHs_1=180 Ton0_delay=0 Ton0_rise=1m Ton1_delay=0 Ton1_rise=1m Toff0_delay=0 Toff0_fall=1m Toff1_delay=0 Toff1_fall=1m Vout0_range=0 Vout1_range=1
C7 N019 0 100p
C8 N021 0 4.7n
C9 N018 0 100p
C10 N020 0 4.7n
C11 N001 0 4.7µ V=6.3
C12 IN 0 56µ x2
C13 IN 0 2.2µ x4 V=100
C14 IN 0 2.2µ x4 V=100
C15 IN 0 .1µ V=100
R6 N010 OUT1 3m
R7 OUT0 N011 3m
R8 N016 OUT1 100
R9 OUT0 N017 100
C16 OUT0 0 150µ x2
C17 OUT1 0 150µ x2
C18 N022 0 2.2µ
C19 N025 0 2.2µ
R10 0 N026 4.32K
R11 N026 N025 24.9K
C20 IN 0 10µ x2
R12 N006 N005 2
R13 N008 N007 2
Rload0 OUT0 0 1
Rload1 OUT1 0 0.417
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3886. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     FREQUENCY -- in Hz, sets switching frequency as one of values of 100K, 125K, 150K, 175K, 200K, \n                             225K, 250K, 300K, 350K, 425K, 500K, 575K, 650K, 750K. \n                             FREQ_CFG pin needs to float  (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet.\n                FREQ_CFG  pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range\n                with value 0  for 14V max (Range High) ; value 1 for 7V max (Range Low)\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                 for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                  by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                  0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;\n     gm0, gm1 -- in A/V, sets the transconductance of the error amplifier\n     Rth0, Rth1 -- in ohms, sets the value of resistor in series with compensation capacitor on pin IthR0 (or IthR1)
* LTC3886 - 60V Dual Output Step-Down DC/DC Controller with Power System Management\nHigh Efficiency 150kHz Dual Output Step-Down Converter with Rsense\nInput: 18V to 54V     Output: 12V @ 12A max & 5V @ 12A max
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Analog Devices & Linear Technology. All rights reserved.
* 12V @12A
* 5V@12A
.lib LTC3886.sub
.backanno
.end
